2167-01-29 12:53:00 Physician Attending Progress Note
Chief Complaint: resp failure, hypotension, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Has remained off BiPAP X 48 hrs
   O2 weaned to NC
   Feels his breathing has improved but continues to have cough
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2167-1-28**] 03:26 PM
   Vancomycin - [**2167-1-29**] 08:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-1-29**] 08:24 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-1-29**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 69 (61 - 96) bpm
   BP: 129/67(82) {104/47(63) - 146/103(106)} mmHg
   RR: 31 (20 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 61 kg
   Height: 70 Inch
             Total In:
                                                                  1,169 mL
                                                                    873 mL
   PO:
             TF:
                                                                    219 mL
                                                                    410 mL
   IVF:
                                                                    740 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                    672 mL
                                                                    395 mL
   Urine:
                                                                    672 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    497 mL
                                                                    478 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: ), decreased L,
   rhonci R
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  warm
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   11.8 g/dL
   157 K/uL
   140 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.2 mEq/L
   35 mg/dL
   106 mEq/L
   139 mEq/L
   36.4 %
   6.1 K/uL
        [image002.jpg]
                            [**2167-1-26**]  05:10 PM
                            [**2167-1-27**]  04:31 AM
                            [**2167-1-27**]  11:13 AM
                            [**2167-1-27**]  11:37 AM
                            [**2167-1-27**]  04:25 PM
                            [**2167-1-27**]  09:54 PM
                            [**2167-1-28**]  05:14 AM
                            [**2167-1-29**]  03:17 AM
   WBC
   7.0
   7.9
   6.1
   Hct
   37.3
   36.2
   36.4
   Plt
   156
   176
   157
   Cr
   0.8
   0.9
   0.9
   0.7
   TropT
   <0.01
   TCO2
   29
   28
   26
   28
   Glucose
   164
   134
   99
   140
   Other labs: CK / CKMB / Troponin-T:146/3/<0.01, Differential-Neuts:79.7
   %, Lymph:13.8 %, Mono:6.2 %, Eos:0.1 %, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.6 mg/dL
   Imaging: cxr-- opacification of L, gastric bubble overshadow, R without
   focal process, edema
   Microbiology: bl cx gpc (cns), urine PSA, e coli, sputum PSA
   Assessment and Plan
   77M NH resident with copd hx, L hemid elevation, chronic aspiration,
   Parkinson
s ds presents with fever, tachycardia, transient hypotension
   and resp distress/failure requiring NPPV.  Suspect aspiration
   pna/pneumonitis and possible copd exacerbation are the primary issues
   leading to this presentation in a pt with significant underlying lung
   ds with h/o copd and more likely significant restrictive pulmonary
   physiology from kyphosis and chronic L hemid elevation.  Also with
   polymicrobial (E Coli/ psa)UTI.
   --His resp status continues to improve though he remains tenuous.  He
   is now on NC with stable O2 sats.  His imaging shows, new from
   admission, opacification of L lung, concerning for intermittent
   plugging.
   Agree with plan to continue empiric antbx for NH acquired pna/asp and
   UTI w/ cefe.  Will d/c vanco given no MRSA from sputum and CNS from
   blood which is likely a contaminant. CXR suggests a component of
   vascular congestion and wheezing on exam may be in part related to pulm
   edema likely from IVFs and tachycardia at presentation. Also with
   evidence of L-sided collapse.  Will diurese gently, continue nebs,
   mucomyst, and aggressive chest PT.   Consider bronch if lung does not
   reexpand, but given his resp stability, would try less invasive
   approach for now. Unclear if pt truly has copd, as suspect restriction
   is the primary lung physiology, though no PFTs on record and is
   clinically responding to treatment. Would continue steroid taper.  He
   remains HD stable with resolution of presenting hypotension and
   tachycardia. ICU: PIVs, PPI, sq hep. TFs.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-1-29**] 08:01 AM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-1-27**] 05:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :would continue ICU level care for now, pending further
   improvement in resp status
   Total time spent: 40 minutes

2167-01-30 13:06:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo male with COPD/recurrent aspiration PNA, scoliosis, admitted with
   respiraotry distress from PNA transiently on NIPPV, UTI
   24 Hour Events:
   *Got lasix
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2167-1-28**] 03:26 PM
   Vancomycin - [**2167-1-29**] 08:25 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2167-1-30**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2167-1-30**] 08:05 AM
   Other medications:
   SSI, amiodarone, simvastatin, ASA, lansoprazole, albuterol/atrovent,
   prednisone taper (60 mg)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-1-30**] 01:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 88 (64 - 88) bpm
   BP: 116/95(99) {112/49(67) - 130/95(99)} mmHg
   RR: 34 (21 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 61 kg
   Height: 70 Inch
             Total In:
                                                                  1,658 mL
                                                                    844 mL
   PO:
             TF:
                                                                    918 mL
                                                                    586 mL
   IVF:
                                                                    440 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  2,285 mL
                                                                  1,740 mL
   Urine:
                                                                  2,285 mL
                                                                  1,730 mL
   NG:
   10 mL
   Stool:
   Drains:
   Balance:
                                                                   -627 mL
                                                                   -896 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No acute distress, frequently
   coughing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: left base,
   Rhonchorous: )
   Abdominal: Soft
   Extremities: No(t) Cyanosis, No(t) Clubbing, contractures
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   13.2 g/dL
   165 K/uL
   148 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.5 mEq/L
   29 mg/dL
   99 mEq/L
   139 mEq/L
   40.4 %
   7.7 K/uL
        [image002.jpg]
                            [**2167-1-26**]  05:10 PM
                            [**2167-1-27**]  04:31 AM
                            [**2167-1-27**]  11:13 AM
                            [**2167-1-27**]  11:37 AM
                            [**2167-1-27**]  04:25 PM
                            [**2167-1-27**]  09:54 PM
                            [**2167-1-28**]  05:14 AM
                            [**2167-1-29**]  03:17 AM
                            [**2167-1-30**]  04:16 AM
   WBC
   7.0
   7.9
   6.1
   7.7
   Hct
   37.3
   36.2
   36.4
   40.4
   Plt
   156
   176
   157
   165
   Cr
   0.8
   0.9
   0.9
   0.7
   0.8
   TropT
   <0.01
   TCO2
   29
   28
   26
   28
   Glucose
   164
   134
   99
   140
   148
   Other labs: CK / CKMB / Troponin-T:146/3/<0.01, Differential-Neuts:79.7
   %, Lymph:13.8 %, Mono:6.2 %, Eos:0.1 %, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O PARKINSON'S DISEASE
   77 yo male with parkinsonism, DVT, COPD admitted with PNA/COPD
   exacerbation/respiratory distress- improved with abx and no longer
   requiring NIPPV
   PNA/COPD exacerbation: On abx and prednisone taper: add ciprofloxacin
   given intermediate sensitivity to cefipime, continue alb/atrovent nebs,
   pulmonary toilet
   Parkinsonism: on sinemet
   Afib: on amiodarone, rate-controlled
   Rest of plan per ICU housestaff team
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2167-1-30**] 11:02 AM 65 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-1-27**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :transfer to floor
   Total time spent: